### PR TITLE
[Merged by Bors] - feat(Order/InitialSeg): initial segments preserve successor limits

### PR DESCRIPTION
**Pull request by vihdzp**
Initial segments preserve the covering relation, successors, and successor limits.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/InitialSeg.lean [hunk 1]
```diff
@@ -656,16 +657,30 @@ theorem monotone [PartialOrder α] (f : α ≤i β) : Monotone f :=
...
 @[simp]
 theorem map_bot [PartialOrder α] [OrderBot α] [OrderBot β] (f : α ≤i β) : f ⊥ = ⊥ :=
   (map_isMin f isMin_bot).eq_bot
 
+@[simp]
+theorem apply_covBy_apply_iff [PartialOrder α] (f : α ≤i β) : f a ⋖ f a' ↔ a ⋖ a' := by
+  refine ⟨CovBy.of_image f.toOrderEmbedding, fun h ↦ ⟨(lt_iff_lt f).2 h.lt, fun b ha hb ↦ ?_⟩⟩
+  obtain ⟨c, rfl⟩ := f.mem_range_of_rel hb
+  rw [lt_iff_lt] at ha hb
+  exact h.2 ha hb
```
Comment (YaelDillies) [inline Mathlib/Order/InitialSeg.lean:678]:
```suggestion
theorem apply_covBy_apply_iff [PartialOrder α] (f : α ≤i β) : f a ⋖ f a' ↔ a ⋖ a' :=
  Set.OrdConnected.apply_covBy_apply_iff sorry
```

**Review by YaelDillies — COMMENTED** [review]
Looks like you're increasing imports quite a bit. What files are now imported in `Order.InitialSeg` that were not before?

**Comment by vihdzp** [comment]
I think the increased imports mainly come from the `OrdConnected` stuff. I don't think this is a huge issue however, since the `InitialSeg` API is mainly meant to be used with `Ordinal` which uses about twice as many imports.

File: Mathlib/Order/InitialSeg.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean]: There's a one line proof using this and [`IsLowerSet.ordConnected`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/UpperLower/Basic.html#IsLowerSet.ordConnected), but this increases the imports even further.

Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean]: What should we done? Do we just eat the import increase? Do we make a separate file for the handful of upper set/covering lemmas on initial/principal segments? Do we keep the older and slightly longer proof?

**Comment by YaelDillies** [comment]
> I think the increased imports mainly come from the `OrdConnected` stuff. I don't think this is a huge issue however, since the `InitialSeg` API is mainly meant to be used with `Ordinal` which uses about twice as many imports.

There are 37 files (most not in the `Ordinal` API) that have their imports increased by 10.

File: Mathlib/Order/InitialSeg.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Order/InitialSeg.lean]: The best would be to rearrange the files so that there's little to no import increase, and the second best would be to create a new file

Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean]: I don't really know how to do the former. I think I'll just make a `SuccPred/InitialSeg` file to put all of the covering/successor lemmas in.

**Comment by vihdzp** [comment]
Just moved these results to a new file.

File: Mathlib/Order/SuccPred/InitialSeg.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+
+variable {α β : Type*} {a b : α} [PartialOrder α] [PartialOrder β]
+
+open Order
+
+namespace InitialSeg
+
+@[simp]
+theorem apply_covBy_apply_iff (f : α ≤i β) : f a ⋖ f b ↔ a ⋖ b :=
+  Set.OrdConnected.apply_covBy_apply_iff f.toOrderEmbedding (isLowerSet_range f).ordConnected
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/InitialSeg.lean:24]:
```suggestion
  (isLowerSet_range f).ordConnected.apply_covBy_apply_iff f.toOrderEmbedding
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer delegate

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
